US08859596B2
5-tert-butyl-3-(cyclobutylmethyl)oxazol-2(3H)-imine
A mixture of N-(cyclobutylmethyl)cyanamide (0.40 g, 3.6 mmol), cesium carbonate (2.4 g, 7.3 mmol) and 1-bromo-3,3-dimethylbutan-2-one (0.50 mL, 3.6 mmol, Aldrich) in 1,2-dimethoxyethane (20 mL) was heated to 80° C. overnight. The mixture was poured into water, and extracted with ethyl acetate (2×20 mL). The combined organic extracts were dried over Na2SO4, filtered, concentrated under reduced pressure to provide the title compound (0.6 g). LCMS (APCI+) m/z 209 (M+H)+.

reactant | N-(cyclobutylmethyl)cyanamide | 3.6 mmol, 0.40 g | C1(CCC1)CNC#N | C6H10N2
reactant | cesium carbonate | 7.3 mmol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3,3-dimethylbutan-2-one | 3.6 mmol, 0.50 mL | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 5-tert-butyl-3-(cyclobutylmethyl)oxazol-2(3H)-imine | 0.6 g | C(C)(C)(C)C1=CN(C(O1)=N)CC1CCC1 | C12H20N2O
